US09145380B2
a) (E)-4-Chloro-2-(2-(4-chloro-2-methoxyphenyl)vinylsulfonamido)benzenesulfonamide
The title compound was synthesized as described for Example 226 a) in 100% yield, starting from 2-amino-4-chlorobenzenesulfonamide and (E)-2-(4-chloro-2-methoxyphenyl)ethenesulfonyl chloride.

reactant | 2-amino-4-chlorobenzenesulfonamide | NC1=C(C=CC(=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | (E)-2-(4-chloro-2-methoxyphenyl)ethenesulfonyl chloride | ClC1=CC(=C(C=C1)/C=C/S(=O)(=O)Cl)OC | C9H8Cl2O3S
product | (E)-4-Chloro-2-(2-(4-chloro-2-methoxyphenyl)vinylsulfonamido)benzenesulfonamide | 100% yield | ClC1=CC(=C(C=C1)S(=O)(=O)N)NS(=O)(=O)\C=C\C1=C(C=C(C=C1)Cl)OC | C15H14Cl2N2O5S2
